US07858796B2
(70) 3-(1-{[3-(4-methyl-1-piperazinyl)propyl]sulfonyl}-4-piperidinyl)-5-(2-thienyl)-1H-indole-7-carboxamide
Following the general procedure for aminosulfonamide formation outlined in example 2, 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(2-thienyl)-1H-indole-7-carboxamide (40 mg, 0.13 mmol) and 1-methylpiperazine (0.068 mL, 0.65 mmol) were allowed to react in the presence of K2CO3 (74 mg, 0.65 mmol). The resulting residue was purified by reverse phase HPLC eluting with 10% B to 80% B, where A=H2O (0.1% trifluoroacetic acid) and B=CH3CN (0.1% trifluoroacetic acid) to give the title compound (7.0 mg, 11%).

reactant | aminosulfonamide | NS(=O)(=O)N | H4N2O2S
reactant | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(2-thienyl)-1H-indole-7-carboxamide | 0.13 mmol, 40 mg | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C=1SC=CC1)C(=O)N | C21H24ClN3O3S2
reactant | 1-methylpiperazine | 0.65 mmol, 0.068 mL | CN1CCNCC1 | C5H12N2
reactant | K2CO3 | 0.65 mmol, 74 mg | C(=O)([O-])[O-].[K+].[K+]
product | 3-(1-{[3-(4-methyl-1-piperazinyl)propyl]sulfonyl}-4-piperidinyl)-5-(2-thienyl)-1H-indole-7-carboxamide | 7.0 mg, 11% | CN1CCN(CC1)CCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C=1SC=CC1)C(=O)N | C26H35N5O3S2
